US08383629B2
2-methyl-1′-(3-(2-(trifluoromethyl)phenyl)propanoyl)spiro[isoindoline-1,4′-piperidin]-3-one
The title compound was prepared following a procedure analogous to that described in Example 1 using 3-(2-(trifluoromethyl)phenyl)propanoic acid and 2-methylspiro[isoindoline-1,4′-piperidin]-3-one. LC-MS Method 1 tR=1.65, min, m/z=417, 415.

reactant | 3-(2-(trifluoromethyl)phenyl)propanoic acid | FC(C1=C(C=CC=C1)CCC(=O)O)(F)F | C10H9F3O2
reactant | 2-methylspiro[isoindoline-1,4′-piperidin]-3-one | CN1C(C2=CC=CC=C2C12CCNCC2)=O | C13H16N2O
product | 2-methyl-1′-(3-(2-(trifluoromethyl)phenyl)propanoyl)spiro[isoindoline-1,4′-piperidin]-3-one | CN1C(C2=CC=CC=C2C12CCN(CC2)C(CCC2=C(C=CC=C2)C(F)(F)F)=O)=O | C23H23F3N2O2
